US05643908
4-(S)-Isopropyl-3-(1-oxoheptyl)-2-oxazolidinone
A solution of 4-(S)-isopropyl-2-oxazolidinone (5.04 g) in tetrahydrofuran (125 ml) was cooled to -78° C. under an atmosphere Of nitrogen. n-Butyl lithium (16 ml, 1.65M, in hexane).was added dropwise to the solution. Heptanoyl chloride (6.4 ml) was added to the resulting mixture after 10 min stirring, and the stirring was continued for another 1.5 hours at the same temperature. The reaction mixture was then poured into a 5% aqueous solution of ammonium chloride and was extracted with ethyl acetate. The organic extract was successively washed with water and a saturated aqueous solution of sodium chloride, and dried over sodium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by column chromatography through silica gel, using a 8:1 mixture of hexane and ethyl acetate as an eluent, to give the desired compound (9.69 g) as a colorless oil.

reactant | 4-(S)-isopropyl-2-oxazolidinone | 5.04 g | C(C)(C)[C@@H]1NC(OC1)=O | C6H11NO2
reactant | n-Butyl lithium | 1.65M, 16 ml | C(CCC)[Li]
reactant | Heptanoyl chloride | 6.4 ml | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 4-(S)-Isopropyl-3-(1-oxoheptyl)-2-oxazolidinone | 9.69 g | C(C)(C)[C@@H]1N(C(OC1)=O)C(CCCCCC)=O | C13H23NO3
